US05616586
9-Bromo-5-methyl-5-phenylcarbamoylmethyl-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione
A procedure similar to that described in Example 52 was carried out with 9-bromo-5-carboxymethyl-5-methyl-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione (100 mg, 0.28 mmol) and aniline (28 μL, 0.31 mmol) to give 89 mg of the title compound (73%): mp 155°~162° C. (dec); 1H NMR (270 MHz, DMSO-d6) δ812.00 (s, 1H), 9.92 (s, 1H), 7.46 (d, 2H, J=8 Hz), 7.23 (t, 2H, J=8 Hz), 7.14 (bs, 2H), 6.99 (t, 1H, J=8 Hz), 3.63 (d, 1H, J=15 Hz), 2.90 (d, 1H, J=15 Hz), 2.80~2.90 (m, 2H), 2.25~2.40 (m, 1H), 1.85~2.00 (m, 1H), 1.68 (s, 3H).

reactant | 9-bromo-5-carboxymethyl-5-methyl-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione | 0.28 mmol, 100 mg | BrC=1C=C2C=3N(C(C(NC3C1)=O)=O)C(CC2)(C)CC(=O)O | C14H13BrN2O4
reactant | aniline | 0.31 mmol, 28 μL | NC1=CC=CC=C1 | C6H7N
product | 9-Bromo-5-methyl-5-phenylcarbamoylmethyl-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione | 89 mg, 73% | BrC=1C=C2C=3N(C(C(NC3C1)=O)=O)C(CC2)(CC(NC2=CC=CC=C2)=O)C | C20H18BrN3O3
